US06897231B2
B. ({3-[3-(4-Fluorophenyl)(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)methylamine
A suspension of ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride (0.300 g, 0.94 mmol) and N-amino-2-(methylamino)acetamide (0.290 g, 2.81 mmol) in 4 mL of anhydrous methanol was prepared. An excess of a commercial solution of sodium methoxide in methanol (0.643 mL, 4.37 M) was added. After an hour, the temperature was raised to reflux and was maintained for 48 hours although no further conversion was observed after 24 hours. The reaction was then quenched with water, the pH adjusted to neutral and the crude product extracted with ethyl acetate. The title compound was purified by preparative HPLC (0.034 g, 11% yield): 1H NMR (CD3OD) δ 8.71 (s, 1H), 8.11-8.03 (m, 3H), 7.69 (d, 1H), 7.3 (t, 2H), 3.95 (s, 2H), 2.49 (s, 3H); ES-MS (m/z) 323 [M+H]+.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride | 0.94 mmol, 0.300 g | Cl.C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | N-amino-2-(methylamino)acetamide | 2.81 mmol, 0.290 g | NNC(CNC)=O | C3H9N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 4.37 M, 0.643 mL | CO | CH4O
product | ({3-[3-(4-Fluorophenyl)(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)methylamine | 11% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C1=NNC(=N1)CNC | C17H15FN6
